US08487009B2
To a suspension of LiAlH4 (95%) (5.00 g, 125 mmol) in dry ether (100 mL) at 0° C. was added a solution of methyl 3,5-dimethoxy-4-i-propylbenzoate (17.67 g, 90.1 mmol), obtained in example 1(b) in ether (300 mL) under N2. The suspension was stirred at 0° C. for one hour then for an additional hour at room temperature. The reaction was quenched by slow addition of a saturated Na2SO4 aqueous solution (10 mL) at 0° C. The mixture was stirred overnight. The solid was filtered off and the filtrate was evaporated to dryness to give 3,5-dimethoxy-4-i-propylbenzyl alcohol (13.76 g, 88.3% yield) as white crystals. 1HNMR (CDCl3, ppm): δ 1.34 (d, J=7.2 Hz, 6H), 3.65 (hept., J=7.2 Hz, 1H), 3.88 (s, 6H), 4.70 (s, 2H), 6.62 (s, 2H).

reactant | LiAlH4 | 125 mmol, 5.00 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 3,5-dimethoxy-4-i-propylbenzoate | 90.1 mmol, 17.67 g | COC=1C=C(C(=O)OC)C=C(C1C(C)C)OC | C13H18O4
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | 3,5-dimethoxy-4-i-propylbenzyl alcohol | 13.76 g, 88.3% yield | COC=1C=C(CO)C=C(C1C(C)C)OC | C12H18O3
